US07612099B2
2-{[3-(2-Amino-ethyl)-6-ethyl-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and 2-(6-ethyl-1H-indol-3-yl)-ethylamine (Lit. 8) to give the title compound as a pale brown solid. MS: 451.0 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(6-ethyl-1H-indol-3-yl)-ethylamine | C(C)C1=CC=C2C(=CNC2=C1)CCN | C12H16N2
product | 2-{[3-(2-Amino-ethyl)-6-ethyl-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone | NCCC1=C(NC2=CC(=CC=C12)CC)C(C=1C(CC(C1O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H30N2O2
